US08802301B2
where R1 and R2 are individually chosen from F, CF3, C2F5, C4F9, an aromatic group, or a fluorinated aromatic group. A non-limiting example of the lithium fluorosulfonimides includes lithium bis(fluorosulfonyl)imide (LiN(FSO2)2). Some non-limiting examples of the lithium fluoroalkylsulfonimide salt include lithium bis(trifluoromethylsulfonyl)imide (LiN(CF3SO2)2) and lithium bis(pentafluoroethylsulfonyl)imide (LiN(C2F5SO2)2), both of which are commercially available as HQ-115 and FC-130, respectively, from 3M in St. Paul, Minn. The lithium fluoroalkylsulfonimide salt may also be chosen from lithium [(trifluoromethylsulfonyl)(nonafluorobutylsulfonyl)]imide (CF3SO2N(Li)SO2C4F9), which may be synthesized according to, e.g., the scheme depicted in FIG. 7. This synthesis includes two reactants which were prepared in parallel, namely perfluorobutylsulfonyl fluoride (C4F9SO2F) and lithium N-trimethylsilyl-trifluoromethanesulfonamide salt (CF3SO2N(Li)Si(CH3)3). First, iodoperfluorobutane (C4F9I) was dissolved into a 1:1 (vol/vol) mixture of acetonitrile (CH3CN or “ACN”) and deionized water, and then this mixture was slowly added into an aqueous solution of Na2S2O4 and NaHCO3 at a temperature of about 10° C. The mixture was added such that the molar ratio of C4F9I to Na2S2O4 to NaHCO3 was about 1:3.2:5.5. The reaction was completed after stirring at room temperature for about two days, with the formation of a sodium sulfinate salt (C4F9SO2Na). Deionized water was poured in another flask, cooled down to 0° C. using an ice-salt mixture, and chlorine gas was bubbled through the solution until saturation was reached. The reaction mixture was added slowly to the flask containing the chlorine-saturated water while chlorine gas was still bubbled vigorously throughout the addition. A white precipitate was formed. This mixture was filtered and the white solid was dried in the air at room temperature for one hour. The solid was further purified by sublimation at 60° C. under dynamic vacuum, leaving a white solid perfluorobutylsulfonyl chloride (C4F9SO2Cl). The next step was to stir this chloride with an excess KF in dry acetonitrile at room temperature for 4 days, then the temperature was increased to 90° C. for another 2 days, at which time 19F NMR showed the reaction to be complete. The reaction mixture was filtered through a celite layer, and the product was isolated from filtrate by the addition of excess deionized water. The product, perfluorobutylsulfonyl fluoride (C4F9SO2F), was dried over P2O5 and then distilled under dynamic vacuum at room temperature.

reactant | lithium | [Li] | Li
reactant | lithium bis(trifluoromethylsulfonyl)imide | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[Li+]
reactant | lithium bis(pentafluoroethylsulfonyl)imide | [N-](S(=O)(=O)C(F)(F)C(F)(F)F)S(=O)(=O)C(F)(F)C(F)(F)F.[Li+]
reactant | perfluorobutylsulfonyl fluoride | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)F)F | C4F10O2S
reactant | lithium N-trimethylsilyl-trifluoromethanesulfonamide salt | C[Si](NS(=O)(=O)C(F)(F)F)(C)C.[Li]
reactant | Na2S2O4 | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | C4F9I | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)I | C4F9I
reactant | chlorine | ClCl | Cl2
solvent | water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | perfluorobutylsulfonyl chloride | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)Cl)F | C4ClF9O2S
